US08076485B2
Alkylation of 1-Aza-Bicyclo[4.2.0]Octan-8-one
Pan et al., Eur. J. Pharmacol., 264:177-182 (1994) (“Pan”) describes the synthesis of bromine-substituted methylphenidate analogs. In particular, Pan describes the synthesis of the o-bromo, m-bromo and p-bromo methylphenidate (bromo substitutents on the phenyl ring). The Panizzon synthesis of methylphenidate was modified to prepare p-bromomethylphenidate. Briefly, methylphenidate's molecular skeleton was prepared by base catalyzed reaction of p-bromophenylacetonitrile with o-chloropyridine. Following hydrolysis of the nitrile group to an amide, the pyridine ring was reduced to produce a 4:1 mixture of the erythro and threo isomers of ritalinic acid amide. Epimerization with NaOH, acid hydrolysis of the amide, and treatment with methanol/hydrogen chloride then gave dl-threo-p-bromo-methylphenidate hydrochloride in about 10% overall yield. An early batch used in in vivo experiments was about 85% pure due to the presence of erythro isomers of p-bromomethylphenidate and a trace of dl-threo-methylphenidate. These impurities were removed by several recrystallizations from methanol/ether before in vitro binding experiments were performed. Nuclear magnetic resonance (NMR) spectroscopic data were consistent with the assigned structure (δ3.26 doublet for the benzylic hydrogen showing the threo configuration; δ7.18 and 7.44 doublets for the aromatic protons) and a purity of >98%. Chiral high performance liquid chromatography (HPLC) using a Daicel 250×10 mm column eluted with hexane-isopropanol-diethylamine (98:2:0.1, v/v at 4 ml/min) showed two peaks of equal area at 10 and 12 minutes. The analogous o- and m-bromo derivatives were also prepared from the corresponding o- and m-bromophenylacetonitriles, and shown by NMR and chiral HPLC to be >95% pure.

reactant | p-bromomethylphenidate | COC(=O)C(C1CCCCN1)C2=CC=C(C=C2)Br | C14H18BrNO2
reactant | dl-threo-methylphenidate | COC(=O)[C@H]([C@H]1CCCCN1)C2=CC=CC=C2 | C14H19NO2
product | 1-Aza-Bicyclo[4.2.0]Octan-8-one | N12CCCCC2CC1=O | C7H11NO
